US04851536
6,9-Dichloro-1,2,3,4-tetrahydro-2-acridinecarboxylic acid methyl ester
To a slurry of 16.5 g (0.096 mol) of 4-chloroanthranilic acid and 166 ml of phosphorous oxychloride is added portionwise 15 g (0.096 mol) of methyl 4-ketocyclohexane carboxylate. The reaction mixture is refluxed for 3 h, cooled, and concentrated in vacuo. The residue is dissolved in methylene chloride and poured into an ice-NH4OH mixture. The aqueous phase is separated and extracted with methylene chloride. The combined organic phases are dried over Na2SO4 and concentrated in vacuo. The residue is triturated with ethyl ether to give 21.7 g (73%) of the title compound: IR (KBr) 1730, 1605, 1580, and 1550 cm-1 ; NMR (DMSO-d6) δ 8.14-8.08 (m, 1H), 8.0-7.96 (m, 1H), 7.70-7.64 (m, 1H), 3.70 (s, 3H), 3.30-3,16 (m, 1H), 3.12-2.96 (m, 4H), 2.32-2.20 (m, 1H), and 2.04-1.86 (m, 1H).

reactant | 4-chloroanthranilic acid | 0.096 mol, 16.5 g | ClC=1C=C(C(C(=O)O)=CC1)N | C7H6ClNO2
reactant | phosphorous oxychloride | 166 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | methyl 4-ketocyclohexane carboxylate | 0.096 mol, 15 g | O=C1CCC(CC1)C(=O)OC | C8H12O3
product | 6,9-Dichloro-1,2,3,4-tetrahydro-2-acridinecarboxylic acid methyl ester | 21.7 g, 73% | COC(=O)C1CC2=C(C3=CC=C(C=C3N=C2CC1)Cl)Cl | C15H13Cl2NO2
